US08461348B2
2-bromo-1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone
To a solution of 1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone (1.00 g, 4.60 mmol) in diethyl ether (15 mL) was added phenyltrimethylammonium tribromide (1.78 g, 4.60 mmol), and the mixture was stirred overnight. The reaction mixture was diluted with diluted aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (1.35 g, 98%) as a colorless solid.

reactant | 1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone | 4.60 mmol, 1.00 g | COC1=C(C=C(C=C1)C(F)(F)F)C(C)=O | C10H9F3O2
reactant | phenyltrimethylammonium tribromide | 4.60 mmol, 1.78 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-bromo-1-[2-methoxy-5-(trifluoromethyl)phenyl]ethanone | 1.35 g, 98% | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)OC | C10H8BrF3O2
